US07951803B2
To a mixture of 0.34 g (2.0 mmol, 1.0 eq.) of 1-(chloromethyl)-4-nitrobenzene and 1.38 g (10 mmol, 5.0 eq.) of potassium carbonate in 20 mL of acetonitrile was added 0.33 g (4.0 mmol, 2.0 eq.) ethylamine hydrochloride. The reaction mixture was heated at reflux for 16 h. The reaction mixture was allowed to cool to room temperature, filtered and the solvent removed in vacuo to provide 0.18 g (1.0 mmol, 50%) of N-(4-nitrobenzyl)ethanamine (I-29).

reactant | 1-(chloromethyl)-4-nitrobenzene | 2.0 mmol, 0.34 g, 1.0 eq. | ClCC1=CC=C(C=C1)[N+](=O)[O-] | C7H6ClNO2
reactant | potassium carbonate | 10 mmol, 1.38 g, 5.0 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | ethylamine hydrochloride | 4.0 mmol, 0.33 g, 2.0 eq. | Cl.C(C)N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-(4-nitrobenzyl)ethanamine | 1.0 mmol, 0.18 g, 50% | [N+](=O)([O-])C1=CC=C(CNCC)C=C1 | C9H12N2O2
